US04000151
5-Chloro-2-[3-(iodomethyl)-5-methyl-4H-1,2,4 -triazol-4-yl]benzophenone
5-Chloro-2-[3-(chloromethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone (346 mg. 0.001 mole) is added to a stirred solution of sodium iodide (300 mg., 0.002 mole) in acetone, and the resulting mixture is stirred at ambient temperature for 6 hours 54 minutes and poured into ice water. This mixture is extracted with chloroform. The extract is washed with brine, dried and concentrated. The residue is crystallized from methylene chloride-ethyl acetate to give: 0.227 g. of melting point 185.5°-192° (decomposition) of 5-chloro-2-[3-(iodomethyl)-5-methyl-4H-1,2,4-triazol-4-triazol-4-yl]benzophenone. The analytical sample has a melting point of 185°-200° C. (decomposition).

reactant | 5-Chloro-2-[3-(chloromethyl)-5-methyl-4H-1,2,4-triazol-4-yl]benzophenone | 0.001 mole, 346 mg | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CCl | C17H13Cl2N3O
reactant | sodium iodide | 0.002 mole, 300 mg | [I-].[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | 5-Chloro-2-[3-(iodomethyl)-5-methyl-4H-1,2,4 -triazol-4-yl]benzophenone | ClC=1C=CC(=C(C(=O)C2=CC=CC=C2)C1)N1C(=NN=C1C)CI | C17H13ClIN3O
